US07897762B2
A mixture of 4-(tert-butylamino)-6-chloronicotinaldehyde (4.0 g, 18.9 mmol), 4-fluoro-3-nitroaniline (2.9 g, 18.9 mmol) and NaBH(OAc)3 (7.1 g, 37.8 mmol) in CH3COOH (80 mL) was heated to 80° C. for 10 h. The reaction was concentrated under reduced pressure to give a sticky solid, which was suspended in ice water. The mixture was neutralized (pH 7) with 2N aqueous NaOH solution and was extracted with EtOAc. The extracts were washed with brine, dried Na2SO4) and concentrated in vacuo. Purification of the residue by chromatography provided N-tert-butyl-2-chloro-5-((4-fluoro-3-nitrophenylamino)methyl)pyridin-4-amine (4.3 g, 65% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.87 (s, 1 H), 7.32 (m, 1 H), 7.27 (m, 1 H), 7.04 (m, 1 H), 6.68 (s, 1 H), 6.52 (m, 1 H), 5.46 (s, 1 H), 4.17 (d, J=4.8 Hz, 2 H), 1.36 (s, 9 H).

reactant | 4-(tert-butylamino)-6-chloronicotinaldehyde | 18.9 mmol, 4.0 g | C(C)(C)(C)NC1=CC(=NC=C1C=O)Cl | C10H13ClN2O
reactant | 4-fluoro-3-nitroaniline | 18.9 mmol, 2.9 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | NaBH(OAc)3 | 37.8 mmol, 7.1 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | CH3COOH | 80 mL | CC(=O)O | C2H4O2
product | N-tert-butyl-2-chloro-5-((4-fluoro-3-nitrophenylamino)methyl)pyridin-4-amine | 4.3 g, 65% yield | C(C)(C)(C)NC1=CC(=NC=C1CNC1=CC(=C(C=C1)F)[N+](=O)[O-])Cl | C16H18ClFN4O2
